US09353075B2
Step 3. Preparation of Tricyclo[3.3.1.13,7]dec-1-yl [(2S,3R)-2-methyl-4-oxooxetan-3-yl]-carbamate
In a two necked round bottom flask, Et3N (0.34 ml, 2.42 mmol) was added to a solution of (2R,3S)-3-hydroxy-2-{[(tricyclo[3.3.1.13,7]dec-1-yloxy)carbonyl]amino}butanoic acid (0.240 g, 0.81 mmol) in dry CH2Cl2 (12 mL) under argon. After cooling at 0° C., HBTU (0.459 g, 1.21 mmol) was added and the mixture stirred 3 h at 0° C., then 16 h at rt. The obtained solid was filtered-off and the solvent removed under vacuum. The crude mixture was purified by typical silica gel column chromatography, eluting with Cy/AcOEt (90:10). The resulting white solid (0.093 g) was further triturated with cyclohexane to afford the pure title compound (0.065 g, 29%) as white solid. MS (ESI) m/z: 278.31 [M−H]−. Rf=0.19 (Cy/AcOEt 9:1, detection: ninhydrin). FTIR (cm−1): 3338, 2912, 2854, 1828, 1688, 1533, 1457, 1342, 1253, 1120, 1069, 1020, 970, 886, 820. 1H-NMR (CDCl3): δ 1.46 (d, 3H); 1.66 (m, 6H); 2.09 (m, 4H); 2.18 (m, 5H); 4.84 (m, 1H); 5.14 (d, 1H); 5.40 (t, 1H).

reactant | Et3N | 2.42 mmol, 0.34 ml | CCN(CC)CC | C6H15N
reactant | (2R,3S)-3-hydroxy-2-{[(tricyclo[3.3.1.13,7]dec-1-yloxy)carbonyl]amino}butanoic acid | 0.81 mmol, 0.240 g | O[C@H]([C@H](C(=O)O)NC(=O)OC12CC3CC(CC(C1)C3)C2)C | C15H23NO5
reactant | HBTU | 1.21 mmol, 0.459 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | CH2Cl2 | 12 mL | C(Cl)Cl | CH2Cl2
product | Tricyclo[3.3.1.13,7]dec-1-yl [(2S,3R)-2-methyl-4-oxooxetan-3-yl]-carbamate | 0.065 g, 29% | C[C@@H]1OC([C@@H]1NC(OC12CC3CC(CC(C1)C3)C2)=O)=O | C15H21NO4
